US08470823B2
Step 1: tert-Butyl (8aS)-1,3-dioxohexahydroimidazo[1,5-a]pyrazine-7(1H)-carboxylate (H1)
To a stirred solution of 1-tert-butyl 3-methyl (3S)-piperazine-1,3-dicarboxylate (AA3) (1.0 eq.) and 6 N aq. HCl sol. (1.0 eq.) in 1,4-dioxane (1 M) was added a sol. of KOCN (2.0 eq.) in H2O (2 M). The reaction mixture was stirred at RT for 2 h, then the organic solvent was removed under reduced pressure. The desired product precipitated from H2O: it was filtered off, washed with cold water and dried at the high vacuum pump. Mother liquors were extracted with EtOAc, the organic phase was washed with brine, dried (Na2SO4), filtered and concentrated to dryness. The crude product was purified by flash chromatography on silica gel eluting with 10-100% EtOAc/petroleum ether to afford the desired product (H1) as a white powder which was combined with the previously isolated precipitate. 1H-NMR (300 MHz, DMSO-d6, 300K) δ 10.95 (1H, bs), 4.15-4.00 (2H, m), 3.97-3.75 (2H, m), 2.97-2.67 (3H, m), 1.42 (9H, s). MS (ES) C11H17N3O4 requires: 255, found: 256 (M+H)+.

reactant | 1-tert-butyl 3-methyl (3S)-piperazine-1,3-dicarboxylate | 1.0 eq. | N1(C[C@H](NCC1)C(=O)OC)C(=O)OC(C)(C)C | C11H20N2O4
reactant | HCl | 6 N, 1.0 eq. | Cl | ClH
reactant | KOCN | 2.0 eq. | O([K])C#N
solvent | 1,4-dioxane | 1 M | O1CCOCC1 | C4H8O2
solvent | H2O | 2 M | O | H2O
product | tert-Butyl (8aS)-1,3-dioxohexahydroimidazo[1,5-a]pyrazine-7(1H)-carboxylate | O=C1NC(N2[C@H]1CN(CC2)C(=O)OC(C)(C)C)=O | C11H17N3O4
